US05677302
A mixture of 2-butyl -1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one (15.0 g, 60.7 mmole) and 2-cyanopyridine (13.3 g, 0.13 mole) in 150 mL of dichloromethane was stirred at room temperature for 72 h. The precipitate was filtered and washed with dichloromethane to give 10.4 g (68%) of 3-(2-pyridyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole as a white solid: mp 173°-174° C.; 1H NMR (CDCl3) δ8.90 (d, 1H), 8.70 (d, 1H), 8.30 (d, 1H), 7.99 (t, 1H), 7.80 (d, 1H), 7.57 (t, 1H), 7.47 (t, 1H), 7.37 (t, 1H) ppm; 13C NMR (CDCl3) δ166.10, 151.09, 150.11, 148.74, 147.73, 137.38, 130.50, 125.85, 125.24, 124.52, 121.41, 119.11, 116.33 ppm; IR (KBr) ν3419, 3054, 1611, 1587, 1501, 1463, 1446, 727 cm-1. HRMS calcd for C13H8N4S 252.0470, found 252.0882. Anal. Calcd for C13H8N4S: C, 61.89; H, 3.20; N, 22.21. Found: C, 61.48; H, 3.30; N, 22.24.

reactant | 2-butyl -1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one | 60.7 mmole, 15.0 g | C(CCC)N1SC2=NC3=C(N2C1=O)C=CC=C3 | C12H13N3OS
reactant | 2-cyanopyridine | 0.13 mole, 13.3 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole | 10.4 g, 68% | N1=C(C=CC=C1)C1=NSC2=NC3=C(N21)C=CC=C3 | C13H8N4S
